US08198466B2
Preparation of 2-Ethynyl-7-hydroxy-6-methoxy-3-(3,4,5-trimethoxybenzoyl)-benzofuran
To a stirred solution of 2-Bromo-7-acetoxy-3-(3,4,5-trimethoxybenzoyl)-6-methoxybenzofuran (50 mg, 0.10 mmol) in dichloromethane (1 ml) and triethylamine (0.5 ml) was added Pd(Ph3P)2Cl2 (3.5 mg, 5 mol %) and the reaction vessel was evacuated and backfilled with nitrogen three times. Trimethylsilylacetylene (30 mg, 0.30 mmol) and copper (I) iodide (3 mg, 15 mol %) were added sequentially and the resulting dark mixture was stirred for two hours at room temperature. After this time the reaction was concentrated under vacuum and treated with methanol (1 ml) and potassium hydroxide (30 mg, excess). Stirring was continued for 0.5 hours then the crude mixture was concentrated onto silica and chromatographed (silica gel, gradient elution—2:1 hexanes:ethyl acetate, 1:1 hexanes:ethyl acetate) to afford the product as a tan solid (10 mg, 26%); 1H NMR (CDCl3) δ 7.26 (d, J=8.6 Hz, 1H), 7.20 (s, 2H), 6.98 (d, J=8.6 Hz, 1H), 3.96 (s, 3H), 3.93 (s, 3H), 3.87 (s, 6H), 3.51 (s, 1H); LRMS (ESI) m/z=383 (M+H+).

reactant | 2-Bromo-7-acetoxy-3-(3,4,5-trimethoxybenzoyl)-6-methoxybenzofuran | 0.10 mmol, 50 mg | BrC=1OC2=C(C1C(C1=CC(=C(C(=C1)OC)OC)OC)=O)C=CC(=C2OC(C)=O)OC | C21H19BrO8
reactant | Trimethylsilylacetylene | 0.30 mmol, 30 mg | C[Si](C)(C)C#C | C5H10Si
solvent | dichloromethane | 1 ml | ClCCl | CH2Cl2
solvent | triethylamine | 0.5 ml | C(C)N(CC)CC | C6H15N
catalyst | Pd(Ph3P)2Cl2 | 3.5 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | copper (I) iodide | 3 mg | [Cu]I
product | 2-Ethynyl-7-hydroxy-6-methoxy-3-(3,4,5-trimethoxybenzoyl)-benzofuran | 10 mg, 26% | C(#C)C=1OC2=C(C1C(C1=CC(=C(C(=C1)OC)OC)OC)=O)C=CC(=C2O)OC | C21H18O7
